US07084170B2
To 4-bromo-3-chlorotoluene (4.97 g, 24.2 mmol) in dimethylformamide (25 mL) is added palladium acetate (0.54 g, 2.42 mmol), 1,3-bis(diphenylphosphino)propane (0.998 g, 2.42 mmol), triethylamine (12.5 mL) and methanol (12.5 mL). The reaction vessel is evacuated and purged three times with carbon monoxide gas. A balloon filled with carbon monoxide gas is used to maintain the carbon monoxide atmosphere. The reaction mixture is heated at 80° C. for 8 hr. The mixture is washed with water and extracted with hexanes (2×50 mL). The combined organic layers are dried over sodium sulfate, filtered, concentrated, and chromatographed with 0–3% ethyl acetate in hexanes. 1.24 g (28%) of methyl 2-chloro-4-methylbenzoate is isolated as a colorless oil.

reactant | 4-bromo-3-chlorotoluene | 24.2 mmol, 4.97 g | BrC1=C(C=C(C=C1)C)Cl | C7H6BrCl
reactant | 1,3-bis(diphenylphosphino)propane | 2.42 mmol, 0.998 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 12.5 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 12.5 mL | CO | CH4O
reactant | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 2.42 mmol, 0.54 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 2-chloro-4-methylbenzoate | 1.24 g, 28% | ClC1=C(C(=O)OC)C=CC(=C1)C | C9H9ClO2
